US04256759
The solution of 2.5 g of 1-isobutyl-β-oxo-2-pyrrolpropionitrile in 30 ml of toluene and 1.6 g of triethylamine is treated with 1.6 g of phenylisocyanate while stirring. After standing overnight the mixture is filtered and the residue dissolved in 5% aqueous sodium hydroxide. The solution is filtered, acidified with 5 N hydrochloric acid and extracted with diethyl ether-ethyl acetate. The organic solution is washed with water, dried, evaporated, the residue triturated with ethanol and recrystallized from methanol, to give the 1-isobutyl-β-oxo-α-phenylcarbamoyl-2-pyrrolpropionitrile melting at 134°-136°.

reactant | 1-isobutyl-β-oxo-2-pyrrolpropionitrile | 2.5 g | C(C(C)C)N1C(=CC=C1)C(CC#N)=O | C11H14N2O
reactant | triethylamine | 1.6 g | C(C)N(CC)CC | C6H15N
reactant | phenylisocyanate | 1.6 g | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 1-isobutyl-β-oxo-α-phenylcarbamoyl-2-pyrrolpropionitrile | C(C(C)C)N1C(=CC=C1)C(C(C#N)C(NC1=CC=CC=C1)=O)=O | C18H19N3O2
